US08138178B2
Step 1. 3-[(S)-1-(4-Bromo-phenyl)-ethyl]-(S)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one
(Methoxycarbonylsulfamoyl)triethylammonium hydroxide (1.38 g) was added to 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one (2.0 g) dissolved in tetrahydrofuran (30 mL) and toluene (15 mL). The resulting solution was stirred at room temperature for 0.5 h and at 75° C. for 1 h. After cooling to room temperature, the solution was concentrated and ethyl acetate was added to the residue. The resulting mixture was washed with aqueous NaHCO3 solution and brine and dried (MgSO4). The title compound was obtained after removal of the solvent. Yield: 1.9 g (quantitative). Mass spectrum (ESI+): m/z=414/416 (Br) [M+H]+

reactant | (Methoxycarbonylsulfamoyl)triethylammonium hydroxide | 1.38 g | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
reactant | 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | 2.0 g | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C22H26BrNO3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(S)-1-(4-Bromo-phenyl)-ethyl]-(S)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(C1=CC=CC=C1)CC(=C)C)=O | C22H24BrNO2
